US08110575B2
5-(6-(2-(hydroxymethyl)indoline-1-carbonyl)pyrimidin-4-ylamino)-1,3-dihydrospiro[indene-2,3′-pyrrolo[2,3-b]pyridin]-2′(1′H)-one
100 mg (0.24 mmol) 6-(2′-oxo-1,1′,2′,3-tetrahydrospiro[indene-2,3′-pyrrolo[2,3-b]pyridin]-5-ylamino)pyrimidine-4-carboxylic acid hydrochloride, 45 mg (0.30 mmol) (2,3-dihydro-1H-indol-2-yl)-methanol, 0.10 mL (0.71 mmol) TEA and 88 mg (0.27 mmol) TBTU in 1.0 mL DMF were stirred overnight at RT. The purification was carried out by preparative HPLC-MS. The product-containing fractions were combined and the solvent was evaporated down by about half. The precipitate formed was suction filtered and dried.

reactant | 6-(2′-oxo-1,1′,2′,3-tetrahydrospiro[indene-2,3′-pyrrolo[2,3-b]pyridin]-5-ylamino)pyrimidine-4-carboxylic acid hydrochloride | 0.24 mmol, 100 mg | Cl.O=C1C2(C=3C(=NC=CC3)N1)CC1=CC=C(C=C1C2)NC2=CC(=NC=N2)C(=O)O
reactant | (2,3-dihydro-1H-indol-2-yl)-methanol | 0.30 mmol, 45 mg | N1C(CC2=CC=CC=C12)CO | C9H11NO
reactant | TBTU | 0.27 mmol, 88 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
solvent | DMF | 1.0 mL | CN(C)C=O | C3H7NO
product | 5-(6-(2-(hydroxymethyl)indoline-1-carbonyl)pyrimidin-4-ylamino)-1,3-dihydrospiro[indene-2,3′-pyrrolo[2,3-b]pyridin]-2′(1′H)-one | OCC1N(C2=CC=CC=C2C1)C(=O)C1=CC(=NC=N1)NC=1C=C2CC3(C(NC4=NC=CC=C43)=O)CC2=CC1 | C29H24N6O3
